Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female who presented for evaluation 
of
dyspnea. Patient stated that she was short of breath AM prior to
presentation after she went outside in the cold. She took at
least ___ puffs of her albuterol inhaler before going into see
___ health where she received another nebulizer treatment
which did not help resolve her shortness of breath. She 
triggered
on arrival to the ED with dyspnea and tachycardia. She was given
duonebs and prednisone 60 mg with Ativan, and fluids and she
improved greatly to the point that she was ambulating well. She
has not had any leg swelling, sharp pain in her chest, does not
take OCPs, does not have any history of blood clots. ROS notable
for generalized body aches and headache over the last 2 days,
otherwise negative. She did get her flu shot this year.

She reports a history of asthma for which she has used albuterol
in the past which helps her with wheezing. Previously, patient
would have asthma/wheezing when running outside in the cold. She
has never done a peak flow. In ___, she was
diagnosed with PNA (treated as outpatient), and she since that
time has had persistent hacking cough which is sometimes dry and
sometimes productive of green phlegm. Albuterol helps with
wheezing and sometimes helps with cough.

Because of elevated lactate, pt was admitted.

In the ED, initial VS were: 
98.4 141 144/86 28 100% RA 
 
Exam notable for: 
Exam notable for bilaterally coarse breath sounds, tachycardia,
tachypnea, anxiety

 
Past Medical History:
asthma- no PFTs done
migraines
breast reduction done over the ___ in ___
bipolar disorder
 

 
Social History:
___
Family History:
Father: asthma, mild
MGM: breast cancer
maternal aunt: breast cancer, passed away
PGF: brain tumor
cousin: brain tumor

 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS:  98.9 PO 137 / 78 115 20 97 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: tachycardic, regular rhythm, S1/S2, no murmurs, gallops,
or rubs   
LUNGS: CTAB, with good air entry. No wheezes noted on exam. No
rales or rhonchi. Not using any accessory muscles to breathe and
speaking in full sentences. 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM
=========================
VS:  98.4 PO 105/63 81 18 96 Ra
AMBULATORY O2 SATS: ___ HR 185-210
GENERAL: no acute distress, pleasant and conversant
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, no RMG
LUNGS: CTAB, no wheezes rales or ronchi 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, nonfocal
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

 
Pertinent Results:
ADMISSION LABS
=================
___ 11:15AM BLOOD WBC-14.0* RBC-4.80 Hgb-12.6 Hct-39.1 
MCV-82 MCH-26.3 MCHC-32.2 RDW-13.3 RDWSD-39.6 Plt ___
___ 11:15AM BLOOD Neuts-52.5 ___ Monos-6.3 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-7.33* AbsLymp-5.52* AbsMono-0.88* 
AbsEos-0.13 AbsBaso-0.07
___ 11:15AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-1+* Polychr-NORMAL
___ 03:42PM BLOOD ___ PTT-28.3 ___
___ 11:15AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:15AM BLOOD Glucose-120* UreaN-12 Creat-0.7 Na-142 
K-3.4 Cl-101 HCO3-21* AnGap-20*
___ 11:15AM BLOOD ALT-18 AST-19 AlkPhos-87 TotBili-0.3
___ 11:15AM BLOOD Lipase-27
___ 11:15AM BLOOD Albumin-4.8 Calcium-10.0 Mg-1.7
___ 02:59PM BLOOD D-Dimer-271
___ 11:15AM BLOOD TSH-0.86
___ 11:15AM BLOOD Lithium-0.1*
___ 11:15AM BLOOD Acetmnp-NEG
___ 11:26AM BLOOD ___ Temp-36.9 pO2-84* pCO2-40 
pH-7.36 calTCO2-24 Base XS--2 Comment-GREEN TOP
___ 11:04PM BLOOD Lactate-3.7*
___ 05:47PM BLOOD Lactate-3.5*
___ 02:21PM BLOOD Lactate-3.4*
___ 11:26AM BLOOD Lactate-4.9*
___ 11:26AM BLOOD O2 Sat-94

DISCHARGE LABS
================
___ 04:50AM BLOOD WBC-16.1* RBC-4.54 Hgb-11.9 Hct-37.4 
MCV-82 MCH-26.2 MCHC-31.8* RDW-14.0 RDWSD-41.6 Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-87 UreaN-10 Creat-0.6 Na-140 
K-3.9 Cl-105 HCO3-23 AnGap-12
___ 04:50AM BLOOD Calcium-10.0 Phos-3.6 Mg-2.0

IMAGING
==========
___ CXR
  
FINDINGS:   
AP portable upright view of the chest.  Overlying EKG leads are 
present. There is no focal consolidation, effusion, or 
pneumothorax. The cardiomediastinal silhouette is normal. Imaged 
osseous structures are intact. 
IMPRESSION:  
No acute intrathoracic process 

 
Brief Hospital Course:
___ year old female with history of bipolar disorder and asthma 
presenting with asthma exacerbation. 

# asthma exacerbation: uncontrolled mild-moderate asthma. 
Presented to emergency room after becoming more short of breath. 
Did not require supplemental O2 but noted to have lactate 
elevated to 4.9 in the setting of albuterol use; this improved 
to 1.2 by time of discharge. She improved with oral prednisone 
60 mg daily and duonebs. She was also started on controller 
inhaled corticosteroid. 

# tachycardia: noted to have sinus tachycardia more prominent 
with activity, thought to be secondary to albuterol use and 
dehydration. Given 1 L IV fluids with improvement to HR at time 
of discharge to ___ with activity. 

# bipolar disorder: patient takes lithium for history of bipolar 
disorder; she received this diagnosis in childhood, follows up 
with psychiatry in ___, and it is not clear if she still 
carries an adult diagnosis of bipolar disorder. Her lithium 
level on presentation was <0.1 and she reported inconsistent use 
of lithium due to study and work schedule. 

Transitional issues: 
- discharged to complete 5-day burst of prednisone on ___
- follow up with pulmonary medicine, patient given peak flow 
meter at discharge 
- lithium level <0.1 on admission, psychiatrist in ___ 
notified, patient encouraged to establish with psychiatry in 
___ while she is in school here 

>30 minutes spent on discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 450 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
2.  PredniSONE 60 mg PO DAILY  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
4.  Lithium Carbonate 450 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Asthma Exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ on ___ night for a flair of your 
asthma that we call an acute asthma exacerbation. As you've told 
us, on ___ you started to feel short of breath after 
coughing, and your albuterol inhaler did not improve your 
breathing; the nebulizer treatment you received at ___ 
___ also did not help, so you were sent to the 
emergency department here at ___. 

Once at the hospital, you received three treatments to improve 
your breathing: 1) an inhaled combination medication you often 
heard us call "duonebs" (containing ipratropium bromide and 
albuterol) to help increase airflow, 2) prednisone, a 
corticosteroid in pill form, to reduce the inflammation in your 
airways, and 3) Ativan to help ease the tension and anxiety you 
may have felt at the time. 

On ___, we prescribed a new inhaler in addition to your 
albuterol. This new medicine, fluticasone, is a corticosteroid 
that helps reduce inflammation in the airways. It is something 
you should take daily as it is a "maintenance" medicine for 
asthma; your albuterol inhaler will continue to be your "rescue" 
inhaler in the case of future shortness of breath. 

We also thought it best for you to stay ___ night since your 
heart rate rose to 210 while walking. This high rate and the 
higher baseline you experienced in the hospital was likely due 
to the stimulant effect of the albuterol in the inhaler and 
duoneb treatments. Low body fluid can also increase heart rate, 
so we gave you some IV fluids to help restore any fluid losses 
you may have experienced while in hospital. 

As you head back to school and home for the holidays, there are 
several changes and appointments to follow up with: 

1) We've written a prescription for the fluticasone 
"maintenance" inhaler, which you'll be able to pick. As 
mentioned above, make sure to use the inhaler daily; it will not 
increase your ability immediately in the even of shortness of 
breath. It should help improve your breathing at baseline; the 
goal is to reduce the frequency of your breathing difficulties.

2) Continue using your albuterol inhaler as needed in the 
moments when you do have sudden shortness of breath that does 
not improve.

3) If you feel like you did ___ and your shortness of breath 
does not improve, head to an ER again.

4) A pulmonologist (lung doctor) will be in touch about a follow 
up visit. As you leave the hospital, we're also working on 
pinning down an appointment, so we may be in touch too before 
they get back to you. It is important to have a full set of 
pulmonary function tests (PFTs) to determine the best approach 
to your asthma.

5) We recommend establishing care with a psychiatrist in the 
___ area as it can be helpful to have someone both at home in 
___ and here while you're in school, in case you need 
refills on prescriptions or someone to reach out to in a time of 
need. We are working on touching base with your psychiatrist in 
___ to let them know you received care with us.

6) Continue to abstain from smoking! This is very important for 
preventing asthma attacks in the future. 

Please do not hesitate to reach out if you have questions! 
 
Followup Instructions:
___